US07919496B2
SYNTHESIS OF 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID ETHYL ESTER
Oxo-{N′-[4-(2-trifluoromethylbenzoyl)piperazine-1-carbothioyl]hydrazino}-acetic acid ethyl ester (2.88 g, 6.56 mmol) was dissolved in a mixture of 50 mL of toluene and 10 mL of N-methyl-2-pyrrolidone. Methanesulfonic acid (0.723 mL, 11.15 mmol) was then added dropwise over 5 minutes to the stirred solution. The mixture was refluxed for 1.5 hours, then evaporated to 10 mL, and then 20 mL of water was added. The pH of the solution was adjusted to 8 by saturated NaHCO3. The mixture was extracted with ethyl acetate (2×50 mL). The combined organic phase was washed with brine, dried over anhydrous Na2SO4, and concentrated. The residue was purified by flash chromatography to give the title compound in 68% yield (1.84 g). 1H NMR (500 MHz, CDCl3) δ 7.74 (d, J=7.8 Hz, 1H), 7.64 (dd, J=7.5, 7.5 Hz, 1H), 7.60 (dd, J=7.5, 7.5 Hz, 1H), 7.35 (d, J=7.3 Hz, 1H), 4.44 (q, J=7.1 Hz, 2H), 4.06-4.11 (m, 1H), 3.86-3.91 (m, 1H), 3.56-3.77 (m, 4H), 3.35 (t, J=5.4 Hz, 2H), 1.41 (t, J=7.1 Hz, 3H). MS (ES+) m/z 415.5 (M+1).

reactant | Oxo-{N′-[4-(2-trifluoromethylbenzoyl)piperazine-1-carbothioyl]hydrazino}-acetic acid ethyl ester | 6.56 mmol, 2.88 g | C(C)OC(C(NNC(=S)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C17H19F3N4O4S
reactant | Methanesulfonic acid | 11.15 mmol, 0.723 mL | CS(=O)(=O)O | CH4O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | N-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID ETHYL ESTER | 68% yield | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
